* Z:\mnt\design.r\spice\examples\3300-1.asc
XU1 N006 N003 N007 N005 N026 N027 N035 N036 N044 N048 N043 N047 N034 N032 MP_01 MP_02 MP_03 MP_04 MP_05 MP_06 0 N039 N041 N037 N040 N042 N038 N033 N029 N028 N024 N021 N014 N013 N017 N011 N010 N016 N008 N020 N015 N025 MP_07 MP_08 MP_09 MP_10 MP_11 N025 LTC3300-1 Bal_Act_01=0 Bal_Act_02=1 Bal_Act_03=2 Bal_Act_04=3 Bal_Act_05=0 Bal_Act_06=1 Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
C1 N025 0 10µ
C2 N020 N018 0.1µ
R1 N019 N018 6.81
D1 N008 N019 1N5817
L1 N037 N045 10µ Rser=50m
R2 N039 0 25m
R3 N034 0 11.0k
R4 N032 0 30.1k
M1 N045 N041 N039 N039 Si7368DP
L2 N049 N001 10µ Rser=.1
M2 N049 N043 N047 N047 Si7370DP
R5 N047 0 25m
V1 N037 0 3.6
L3 N038 N046 10µ Rser=50m
R6 N040 N037 25m
M3 N046 N042 N040 N040 Si7368DP
L4 N050 N001 10µ Rser=.1
M4 N050 N044 N048 N048 Si7370DP
R7 N048 0 25m
V2 N038 N037 3.6
L5 N028 N030 10µ Rser=50m
R8 N033 N038 25m
M5 N030 N029 N033 N033 Si7368DP
L6 N031 N001 10µ Rser=.1
M6 N031 N035 N036 N036 Si7370DP
R9 N036 0 25m
V3 N028 N038 3.6
L7 N014 N022 10µ Rser=50m
R10 N024 N028 25m
M7 N022 N021 N024 N024 Si7368DP
L8 N023 N001 10µ Rser=.1
M8 N023 N026 N027 N027 Si7370DP
R11 N027 0 25m
V4 N014 N028 3.6
L9 N011 N012 10µ Rser=50m
R12 N013 N014 25m
M9 N012 N017 N013 N013 Si7368DP
L10 N004 N001 10µ Rser=.1
M10 N004 N007 N005 N005 Si7370DP
R13 N005 0 25m
V5 N011 N014 3.6
L11 N008 N009 10µ Rser=50m
R14 N010 N011 25m
M11 N009 N016 N010 N010 Si7368DP
L12 N002 N001 10µ Rser=.1
M12 N002 N006 N003 N003 Si7370DP
R15 N003 0 25m
V6 N008 N011 3.6
V7 N001 0 43.2
C3 N011 N015 220n
D2 N018 N015 1N5817
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
K2 L3 L4 1
K3 L5 L6 1
K4 L7 L8 1
K5 L9 L10 1
K6 L11 L12 1
.tran 1m startup
* Note: 1. Serial Interface features are not modeled. Parameters, Bal_Act_0n, are introduced to command \n              each cell balancing action: 0- No balance; 1- Nonsync discharge; 2- Sync discharge; 3- charge\n          2. Single transformer feature is not modeled.\n          3. The model is capable of multi-chip stack operation, even though daisy chain connection of \n              serial ports are not available.\n          4. Watchdog timer is not modeled.
.lib LTC3300-1.sub
.backanno
.end
