* Z:\mnt\design.r\spice\examples\3388-1.asc
XU1 N001 0 N002 IN N003 OUT N001 0 0 NC_01 0 LTC3388-1
V1 IN 0 5
L1 N003 OUT 100µ Rser=10m Rpar=20K
C1 OUT 0 47µ V=6.3 Irms=0 Rser=0.002 Lser=0 mfg="TDK" pn="C4532X5ROJ47@M" type="X5R"
Rload OUT 0 24
C2 N002 IN 1µ
.tran 5m startup
.lib LTC3388-1.sub
.backanno
.end
