* Z:\mnt\design.r\spice\examples\3407-3.asc
V1 IN 0 5
C1 OUT1 0 10µ
L1 N002 OUT1 2.2µ
C3 OUT2 0 10µ
L2 N001 OUT2 2.2µ
Rload1 OUT1 0 3
Rload2 OUT2 0 5
XU1 OUT1 IN IN N002 0 IN N001 MP_01 IN OUT2 LTC3407-3
.tran 200u startup
.lib LTC3407-3.sub
.backanno
.end
