* Z:\mnt\design.r\spice\examples\3460-1.asc
V1 IN 0 3.6
L1 IN N001 22µ
D1 N001 OUT CMDSH2-3
R1 OUT N002 1.6Meg
R2 N002 0 124K
C1 OUT 0 1µ V=25 Irms=7.25 Rser=0.004 Lser=0 mfg="KEMET" pn="C1206C105K3PAC" type="X5R"
Rload OUT 0 90K
XU1 N001 0 N002 IN IN LT3460-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT3460-1.sub
.backanno
.end
