* Z:\mnt\design.r\spice\examples\3519-1.asc
V1 IN 0 12.4
R1 N002 N006 1Meg
R2 IN N003 1Meg
R3 N003 0 243K
R4 N002 N004 2.49
R5 N006 0 29.4K
L1 IN N001 34µ
C1 N002 0 4.7µ
D1 N004 0 LXHL-BW02 N=10
XU1 0 MP_01 N005 N003 IN N001 N001 MP_02 MP_03 N002 N002 N004 N006 N005 N005 LT3519 X=925n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT3519.sub
.backanno
.end
