* Z:\mnt\design.r\spice\examples\3531-3.asc
L1 N001 N002 10µ
V1 IN 0 3.6
C1 OUT 0 10µ
Rload OUT 0 20
XU1 N001 IN 0 IN MP_01 OUT N002 0 LTC3531-X Vout=3
.tran 500u startup
.lib LTC3531-X.sub
.backanno
.end
