* Z:\mnt\design.r\spice\examples\3550-1.asc
V1 USB 0 5
R1 N004 0 2K
V2 BAT 0 4
R2 N003 0 1.24K
L1 N001 Vout 2.2µ
C1 Vout 0 10µ
R3 N002 0 2K
XU1 USB N002 N004 NC_01 NC_02 Vout BAT 0 MP_03 N001 BAT NC_04 NC_05 N003 BAT NC_06 LTC3550-1
Rload Vout 0 3.125
.tran 150u startup
.lib LTC3550-1.sub
.backanno
.end
