* Z:\mnt\design.r\spice\examples\3552-1.asc
V1 IN 0 5
L1 N004 OUT1 2.2µ
C1 OUT1 N006 33p
C2 OUT1 0 10µ
R1 N001 0 619
R2 N002 0 1.24K
L2 N003 OUT2 4.7µ
C3 OUT2 N005 33p
C4 OUT2 0 4.7µ
V2 BAT 0 4
XU1 N001 BAT NC_01 BAT N003 BAT OUT2 N005 N006 OUT1 BAT N004 N002 IN NC_02 NC_03 0 LTC3552-1
Rload1 OUT1 0 2.25
Rload2 OUT2 0 3.9
.tran 200u startup
.lib LTC3552-1.sub
.backanno
.end
