* Z:\mnt\design.r\spice\examples\3585-0.asc
L1 N002 N005 10µ Rpar=2K Rser=.1
L2 0 N003 {10u*10.2*10.2} Rpar=1Meg
C1 OUT 0 .1µ
D1 N003 OUT D
R3 N004 N001 10K
V1 N001 0 5
V2 N002 0 3
V3 N007 0 PWL(30m 0 30.01m 3 30.1m 3 30.11m 0)
XU1 N001 N002 N001 N005 N006 N006 N007 N001 N004 MP_01 0 LT3585-0
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 50m startup
K1 L1 L2 1
.lib LT3585-0.sub
.backanno
.end
