* Z:\mnt\design.r\spice\examples\2908-A1.asc
V1 N003 0 PWL(0 0 1m 5)
V2 N002 0 PWL(0 0 1m 12)
R1 N010 N009 100K
V3 N010 0 5
R2 N002 N004 2.15Meg
R3 N004 0 100K
XU1 0 N009 N008 N005 N003 N004 N007 N006 LTC2908-A1
V4 N005 0 PWL(0 0 1m 3.3)
V5 N007 0 PWL(0 0 1m 2.5)
V6 N008 0 PWL(0 0 1m 1.8)
R4 N001 N006 86.6K
R5 N006 0 100K
V7 N001 0 PWL(0 0 1m 1)
.tran 300m
.lib LTC2908-A1.sub
.backanno
.end
