* Z:\mnt\design.r\spice\examples\2903-B1.asc
XU1 N001 0 N004 N005 N003 N002 LTC2903-B1
V1 N001 0 PULSE(0 5 0 5)
V2 N004 0 PULSE(0 3.3 0 3.3)
V3 N005 0 PULSE(0 2.5 0 2.5)
V4 N003 0 PULSE(0 1.8 0 1.8)
R1 N002 N001 10K
.tran 5.5
.lib LTC2903-B1.sub
.backanno
.end
