* Z:\mnt\design.r\spice\examples\2908-C1.asc
XU1 0 N007 N005 N001 N002 N004 N006 N003 LTC2908-C1 LTC2908-C1
V7 N006 0 .55
R2 N001 N007 10K
V3 N001 0 2.5
V1 N005 0 .55
V4 N003 0 .55
V2 N002 0 .55
V5 N004 0 PWL(0 0 1 .55 2 .55 2.000001 0)
.tran 15
.lib LTC2908-C1.sub
.backanno
.end
