* Z:\mnt\design.r\spice\examples\1008.asc
V1 +V 0 15
V2 -V 0 -15
V3 N004 0 SINE(0 1 1K)
XU1 N005 N001 +V -V N001 N002 N003 LT1008
C1 N003 N002 1000p
R1 N005 N004 100K
.tran 3m
.lib LTC.lib
.backanno
.end
