* Z:\mnt\design.r\spice\examples\1026.asc
XU1 N001 N003 N004 OUT- 0 IN N002 OUT+ LT1026
C1 N002 N001 1µ
C2 N003 N004 1µ
C3 0 OUT- 1µ
C4 OUT+ 0 1µ
V1 IN 0 {V}
.tran 3m startup
.step param V list 4 5 6
.lib LT1026.sub
.backanno
.end
