* Z:\mnt\design.r\spice\examples\1043.asc
XU1 N004 N003 N005 0 0 N007 N006 +V -V LTC1043
C1 N006 0 1000p
XU2 0 N001 +V -V N002 LT1013
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 10K
R2 N001 N003 10K
C2 N003 0 .1µ
C3 N005 N007 .1µ
V3 N004 0 SINE(0 10m 100)
C4 N002 N001 .1µ
.tran 25m startup
.lib LTC.lib
.backanno
.end
