* Z:\mnt\design.r\spice\examples\1047.asc
V1 +V 0 5
R1 N002 N001 220K
R2 N001 IN 220K
V3 IN 0 SINE(0 1 1K)
XU1 0 N001 +V 0 N003 LTC1047
D1 N003 N002 1N4148
XU2 N002 OUT +V 0 OUT LTC1047
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m
* Precise DC Full-Wave Rectifier(Absolute Value Circuit)
.lib LTC.lib
.backanno
.end
