* Z:\mnt\design.r\spice\examples\1049.asc
V1 +V 0 5
R1 N002 N001 2K
R2 N001 0 198K
V3 IN- IN+ SINE(-25m 5m 100)
XU1 IN- N001 +V 0 N002 LTC1049
R3 N003 N002 2K
R4 OUT N003 198K
XU2 IN+ N003 +V 0 OUT LTC1049
V2 IN+ 0 SINE(2.5 1 10)
.tran .3
* Low Power, Single Supply, Low Offset Instrumentation Amp
.lib LTC.lib
.backanno
.end
