* Z:\mnt\design.r\spice\examples\1051.asc
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 499
R2 N001 0 100K
V3 IN- IN+ SINE(0 10m 100)
XU1 IN- N001 +V -V N002 LTC1051
R3 N003 N002 499
R4 OUT N003 100K
XU2 IN+ N003 +V -V OUT LTC1051
V4 IN+ 0 SINE(0 1 10)
.tran .3
* High Performance Low Cost instrumentation Amplifier
.lib LTC.lib
.backanno
.end
