* Z:\mnt\design.r\spice\examples\1055.asc
V1 +V 0 15
V2 -V 0 -15
XU1 N006 N005 +V -V OUT LT1055
C1 OUT N006 33p
R1 OUT N003 1.5K
D1 N007 N003 1N4148
D2 N007 0 1N4148
D3 N003 N008 1N4148
D4 0 N008 1N4148
D5 N007 N008 LM329
C2 N003 N002 .001µ
R2 N003 N002 3Meg
C3 N005 0 .1µ
D6 N005 N002 1N4148
D7 N002 N001 1N4148
D8 N004 0 1N4148
R3 +V N001 4.7K
R4 N006 0 22K
D9 N001 N004 1N4148
R5 N005 IN 75K
Q1 -V N009 N005 0 2N3906
D10 N009 0 1N4148
C4 N009 0 .1µ
R6 OUT N009 3.3Meg
V3 IN 0 PULSE(1 9 0 50m 50m 0 100m)
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model LM329 D(Ron=1 Vrev=6.95)
.tran 100m
* 1Hz to 10KHz Voltage-to-Frequency Converter
.lib LTC.lib
.backanno
.end
