* Z:\mnt\design.r\spice\examples\1060.asc
V1 N009 0 5
R2 N006 N004 2K
R1 N004 P001 3.16K
V3 IN 0 AC 1
R3 N001 N004 100K
R4 N002 N001 3.16K
R5 N002 N005 100K
R6 N002 N007 2K
XU1 N003 N001 N006 N004 N003 0 N009 N009 0 0 N008 OUT N002 N007 N005 OUT LTC1060 fclka=17.5K fclkb=17.5K divider=100
C1 P001 IN 1µ
R7 N008 N009 1K
R8 N008 0 1K
C2 0 N008 .1µ
.ac lin 500 100 250
.lib LTC7.lib
.backanno
.end
