* Z:\mnt\design.r\spice\examples\1067.asc
XU1 +V 0 N002 N004 N006 N001 N003 N007 N005 OUT 0 -V 0 LTC1067 fclk=1Meg
V1 +V 0 2.5
V3 IN 0 AC 1
R21 N006 N001 22.6K
R31 N004 N001 47.5K
Rin2 N001 N008 22.6K
R41 N002 N001 20K
Rin1 IN N008 16.9K
C1 N008 0 1500p
RH1 N003 N006 118K
RL1 N003 N002 24.3K
R22 N007 N003 45.3K
R32 N005 N003 29.4K
R42 OUT N003 47.5K
V4 -V 0 -2.5
.ac oct 50 1K 100K
.lib LTC7.lib
.backanno
.end
