* Z:\mnt\design.r\spice\examples\1074.asc
R3 N005 N006 2K
R2 N003 0 2.21K
R1 OUT N003 2.8K
L1 N001 OUT 50µ
D1 0 N001 MBRS140
C2 OUT 0 330µ Rser=0.07
V1 IN 0 20
C3 N006 0 .1µ
XU1 IN N001 N004 0 N003 N005 N002 LT1074
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT1074.sub
.backanno
.end
