* Z:\mnt\design.r\spice\examples\1102.asc
V1 +V 0 15
V2 -V 0 -15
V3 IN 0 SINE(0 10m 1K)
XU1 0 N001 IN -V +V 0 N002 OUT LT1102
.tran 3m
.lib LTC.lib
.backanno
.end
