* Z:\mnt\design.r\spice\examples\111.asc
V1 N002 0 5
R1 N002 OUT 1K
XU1 0 N004 N003 0 NC_01 NC_02 OUT N002 RH111
C1 OUT N001 10p
R2 N002 N004 100K
R3 OUT N003 50K
C2 N003 0 .1µ
R4 N004 0 100K
C§Y1 N004 N001 .39p Rser=5K Lser=6.3 Cpar=3.9p
.tran 5m startup
* 100 KHz Crystal Oscillator
.lib LTC.lib
.backanno
.end
