* Z:\mnt\design.r\spice\examples\1110.asc
V1 IN 0 1.5 Rser=0.1
C2 OUT 0 15µ Rser=0.02
D1 N001 OUT MBRS140
L1 IN N001 47µ Rser=0.02 Rpar=5000
R1 OUT N002 300K
R2 N002 0 13.8K
XU1 IN IN N001 0 0 MP_01 MP_02 N002 LT1110 top=1K bot=1T
Rload OUT 0 300
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 4m startup
.lib LT1110.sub
.backanno
.end
